US06900196B2
(R)-2-(4-Methoxybenzoylamino)-2-phenylethylazide
(R)-2-(Boc-amino)-2-phenylethyl azide (47.8 g, 0.182 mole) was added to trifluoroacetic acid (500 mL) with stirring and ice-water bath cooling. The cooling bath was removed, the reaction was allowed to stir 1 h, and the solvent was removed in vacuo at 35° C. water bath temperature. The residue was co-evaporated with toluene to give a weight of 75.0 g. The residue was dissolved in 1,4-dioxane (500 mL) and water (500 mL), with ice-water bath cooling, and then potassium carbonate (113.5 g, 0.82 mol), and anisoyl chloride (37.3 g, 0.219 mol) were added. Another portion of 1,4-dioxane (300 mL) was added to facilitate stirring. After stirring over the weekend, water (1 L) was added. The mixture was cooled to −15° C., and vacuum filtered to collect a white solid. The solid was washed with water, air dried, and then dried under vacuum at 50° C. for 4 h to afford 46.3 g (86%) of the title compound.

reactant | (R)-2-(Boc-amino)-2-phenylethyl azide | 0.182 mole, 47.8 g | C(=O)(OC(C)(C)C)N[C@@H](CN=[N+]=[N-])C1=CC=CC=C1 | C13H18N4O2
reactant | trifluoroacetic acid | 500 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | 0.82 mol, 113.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | anisoyl chloride | 0.219 mol, 37.3 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | 1,4-dioxane | 500 mL | O1CCOCC1 | C4H8O2
solvent | water | 500 mL | O | H2O
solvent | water | 1 L | O | H2O
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | (R)-2-(4-Methoxybenzoylamino)-2-phenylethylazide | 46.3 g, 86% | COC1=CC=C(C(=O)N[C@@H](CN=[N+]=[N-])C2=CC=CC=C2)C=C1 | C16H16N4O2
